US06734302B2
Isobutyryl chloride (8.1 μL, 0.077 mmol) was added to a solution of triethylamine (10.8 μL, 0.077 mmol) and 4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-1H-imidazole (30 mg, 0.071 mmol) in methylene chloride (3 mL). The reaction mixture was stirred at room temperature for 3 h. It was then diluted with methylene chloride and washed with water and brine, and dried over sodium sulfate. The solvents were remove under reduced pressure and chromotagraphy of the residue over silica gel using 25% ethyl acetate in hexanes gave 1-[4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-2-methyl-propan-1-one. HR-MS (ES, m/z) calculated for C28H29N2O2Cl2[(M+H)+]495.1601, observed 495.1606.

reactant | Isobutyryl chloride | 0.077 mmol, 8.1 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 0.077 mmol, 10.8 μL | C(C)N(CC)CC | C6H15N
reactant | 4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-1H-imidazole | 0.071 mmol, 30 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)OC(C)C | C24H22Cl2N2O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-2-methyl-propan-1-one | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(C(C)C)=O)C1=C(C=CC=C1)OC(C)C | C28H28Cl2N2O2
